Circuit 2 pour Xyce
** Voltage Sources
V1 1 0 5V
* Analysis Command
.TRAN 1e-08 5e-06 0 1e-08
* Output
.PRINT TRAN V(1) V(2) V(3)
* Resistors
R1 1 2 1
R2 2 3 1
* Capacitors
C1 2 0 1e-06
C2 3 0 1e-06
.END
