Circuit 5 pour Xyce
** Current Sources
I1 2 0 PULSE(0 2 1e-6 0 0 1e-06 1e-06)
** Voltage Sources
V1 1 0 SIN(0 5 1e6 0 0 0)
* Analysis Command
.TRAN 1e-08 5e-06
.OPTIONS TIMEINT ERROPTION=1
.OPTIONS OUTPUT INITIAL_INTERVAL=1e-08
* Output
.PRINT TRAN V(1) V(2) V(3)
* Resistors
R1 1 2 1
R2 2 0 2
* Capacitors
C1 3 0 1e-06
* Inductors
L1 2 3 1e-06
.END
